US04250096
A solution of 3.78 g (0.02 mol) of 3-azidophthalic anhydride in 50 ml of dioxan is mixed with a solution of 2.74 g (0.02 mol) of p-aminobenzoic acid in 50 ml of dioxan and the mixture is left to stand for 3 hours. 5 ml of acetic anhydride are then added and the reaction mixture is heated for 1 hour at 85° C. After concentrating to dryness, the residue is mixed with water and the resulting crystals are filtered off with suction. 4.8 g (78% of theory) of 4-(3-azidophthalimidyl)-benzoic acid are obtained; melting point 300° C. (with decomposition).

reactant | 3-azidophthalic anhydride | 0.02 mol, 3.78 g | N(=[N+]=[N-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3N3O3
reactant | p-aminobenzoic acid | 0.02 mol, 2.74 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 4-(3-azidophthalimidyl)-benzoic acid | 4.8 g, 78% | N(=[N+]=[N-])C1=C2C(C(=O)N(C2=O)C2=CC=C(C(=O)O)C=C2)=CC=C1 | C15H8N4O4
